US05945440
750 mg (1.7 mmol) (±)-12-(3-Dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-13-methyl-5,7-dioxoindolo[2,3-a]furano[3,4-c]carbazole are heated in an autoclave with 50 ml ammonia-saturated ethanol for 20 hours at 140° C. The undissolved product is filtered off and again crystallised from ethanol. (±)-12-(3-Dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-13-methyl-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole is obtained in the form of a yellow amorphous powder; m.p. 260-270° C.

reactant | (±)-12-(3-Dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-13-methyl-5,7-dioxoindolo[2,3-a]furano[3,4-c]carbazole | 1.7 mmol, 750 mg | CN(CC(CN1C2=CC=CC=C2C=2C3=C(C4=C(C12)N(C=1C=CC=CC14)C)C(OC3=O)=O)O)C | C26H23N3O4
reactant | ammonia | 50 ml | N | H3N
product | (±)-12-(3-Dimethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-13-methyl-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole | CN(CC(CN1C2=CC=CC=C2C=2C3=C(C4=C(C12)N(C=1C=CC=CC14)C)C(NC3=O)=O)O)C | C26H24N4O3
